US07001897B2
Subsequently, to a suspension of p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (207.4 mg, 0.31 mmol) (obtained as described in Reference Example 41(7)) and glycine p-nitrobenzyl ester hydrochloride (116 mg, 0.47 mmol) (obtained as described above) in dimethylformamide (10.5 ml) were added diethylphosphoryl cyanide (0.072 ml, 0.47 mmol) and triethylamine (0.14 ml, 1.00 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred at room temperature for 2 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed successively with a 0.5M aqueous hydrochloric acid solution, saturated aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (3:1) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(p-nitrobenzyloxycarbonylmethyl)carbamoyl-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (209.7 mg, yield 77%) as a pale yellow syrup.

reactant | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.31 mmol, 207.4 mg | C(=O)(O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C30H38N4O8S2Si
reactant | glycine p-nitrobenzyl ester hydrochloride | 0.47 mmol, 116 mg | Cl.[N+](=O)([O-])C1=CC=C(COC(CN)=O)C=C1
reactant | diethylphosphoryl cyanide | 0.47 mmol, 0.072 ml | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 1.00 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(p-nitrobenzyloxycarbonylmethyl)carbamoyl-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 209.7 mg, yield 77% | [N+](=O)([O-])C1=CC=C(COC(=O)CNC(=O)C=2N=C(SC2)N2CC(C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)C=C1 | C39H46N6O11S2Si
